US04126670
S-[3-(Diethylamino)propyl]isothiourea dihydrobromide
A mixture of 3-(diethylamino)propyl alcohol (65.5 g), thiourea (38.0 g) and aqueous hydrobromic acid (48%, 25 ml) was boiled under reflux for 17 hours, and evaporated to dryness. The residue was triturated with ethanol and recrystallised from ethanol/methanol to give the title product, m.p. 125°-127° which was further recrystallised from absolute ethanol to give a 10.0 g sample with m.p. 144°-145°.

reactant | 3-(diethylamino)propyl alcohol | 65.5 g | C(C)N(CCCO)CC | C7H17NO
reactant | thiourea | 38.0 g | NC(=S)N | CH4N2S
reactant | hydrobromic acid | 25 ml | Br | BrH
product | S-[3-(Diethylamino)propyl]isothiourea dihydrobromide | Br.Br.C(C)N(CCCSC(N)=N)CC | InChI=1S/C8H19N3S.2BrH/c1-3-11(4-2)6-5-7-12-8(9)10;;/h3-7H2,1-2H3,(H3,9,10);2*1H
